US04902691
(8β)-N-[(3-Pyridinyl)methyl]-1,6-dimethylergoline-8-carboxamide
One gram of 1,6-dimethylergoline-8-carboxylic acid was slurried with 40 ml of dimethylformamide under a nitrogen atmosphere. The mixture was cooled by means of an external ice/acetone bath. To the slurry were added 700 mcl of phosphorous oxychloride in dropwise fashion keeping the temperature below 0° C. After stirring for 30 minutes, 800 mcl of 3-(aminomethyl)pyridine were added. After stirring an additional two hours, the mixture was poured into approximately 200 ml of dilute ammonium hydroxide and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution, dried over sodium sulfate, and concentrated in vacuo. The residue was crystallized from ethyl acetate/hexane to provide 700 mg of the desired title product, m.p. 185°-187° C.

reactant | 1,6-dimethylergoline-8-carboxylic acid | One gram | CN1C=C2C[C@H]3N(CC(C[C@@H]3C=3C=CC=C1C32)C(=O)O)C | C17H20N2O2
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | ammonium hydroxide | approximately 200 ml | [OH-].[NH4+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (8β)-N-[(3-Pyridinyl)methyl]-1,6-dimethylergoline-8-carboxamide | 700 mg | N1=CC(=CC=C1)CNC(=O)[C@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)C)C | C23H26N4O
